US06200991B1
250 mg (2 mmol) of 4,5,6,7-tetrahydrobenzimidazole, 1.1 g (2.5 mmol) of triphenylbismuth, 363 mg (2 mmol) of copper acetate and 203 mg (2 mmol) of triethylamine are stirred in 5 ml of dichloromethane at room temperature for 24 hours. 2 grams of silica are then added and then the medium is concentrated under reduced pressure. The powder obtained is deposited on a silica gel and the expected product is eluted with a dichloromethane/methanol/ammonium hydroxide (95/5/0.5) mixture. 315 mg (79.5%) of 1-phenyl-4,5,6,7-tetrahydro-2H-benzimidazole are obtained.

reactant | 4,5,6,7-tetrahydrobenzimidazole | 2 mmol, 250 mg | N1=CNC2=C1CCCC2 | C7H10N2
reactant | triphenylbismuth | 2.5 mmol, 1.1 g | C1(=CC=CC=C1)[Bi](C1=CC=CC=C1)C1=CC=CC=C1
reactant | triethylamine | 2 mmol, 203 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | copper acetate | 2 mmol, 363 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 1-phenyl-4,5,6,7-tetrahydro-2H-benzimidazole | 315 mg, 79.5% | C1(=CC=CC=C1)N1CNC2=C1CCCC2 | C13H16N2
